US04470421
Preparation Of Ethyl 2-Methyl-3-butene-2-yl 2-(2-Butyl)malonate
To a solution of 2-methyl-3-buten-2-ol (4.1 g, 0.048 mole) in dry ether (10 ml) stirred under dry nitrogen at 5° C. was added a solution of n-butyllithium (19.3 ml, 0.048 mole, 2.5M in hexane). After completion of the addition, ethyl 2-(2-butyl)malonyl chloride (10.0 g, 0.048 mole) was added slowly with stirring, and an additional 10 ml quantity of ether was added. The suspension was stirred for 2 hours with warming to room temperature. The resultant suspension was extracted with water, a saturated ammonium chloride solution, and then water again. The layers were separated and the organic layer dried over magnesium sulphate, filtered, and subjected to reduced pressure distillation. The pale yellow liquid obtained was subjected to fractional distillation. A heart cut of 8.0 g (64.5%), b.p. 69°-71° C. at 0.1 mm, was obtained.

reactant | 2-methyl-3-buten-2-ol | 0.048 mole, 4.1 g | CC(C)(C=C)O | C5H10O
reactant | n-butyllithium | 0.048 mole, 2.5M, 19.3 ml | C(CCC)[Li]
reactant | ethyl 2-(2-butyl)malonyl chloride | 0.048 mole, 10.0 g | C(C)C(C(=O)Cl)(C(=O)Cl)C(C)CC | C9H14Cl2O2
reactant | ether | 10 ml | CCOCC | C4H10O
product | Ethyl 2-Methyl-3-butene-2-yl 2-(2-Butyl)malonate | CC(CC)C(C(=O)OCC)C(=O)OC(C)(C=C)C | C14H24O4
